US06908913B2
7-[(5-Bromopyridin-3-yl)hydroxymethyl]imidazo[5,1-b]thiazole (2.77 g) was prepared in substantially the same manner as in step a) of Synthesis Example 1, except that 2.50 g of 7-iodoimidazo[5,1-b]thiazole, 12.2 ml of a 0.93 M methylmagnesium bromide/tetrahydrofuran solution, and 2.05 g of 3-bromo-5-formylpyridine were used as the starting materials.

reactant | 7-iodoimidazo[5,1-b]thiazole | 2.50 g | IC=1N=CN2C1SC=C2 | C5H3IN2S
reactant | methylmagnesium bromide tetrahydrofuran | 0.93 M | C[Mg]Br.O1CCCC1
reactant | 3-bromo-5-formylpyridine | 2.05 g | BrC=1C=NC=C(C1)C=O | C6H4BrNO
product | 7-[(5-Bromopyridin-3-yl)hydroxymethyl]imidazo[5,1-b]thiazole | 2.77 g | BrC=1C=C(C=NC1)C(C=1N=CN2C1SC=C2)O | C11H8BrN3OS
